US08912188B2
To a solution of methyl 2-(1-benzofuran-2-yl)-3-[(propan-2-yl)amino]quinoxaline-6-carboxylate (60 mg, 0.17 mmol) in methanol (30 mL) was added sodium hydroxide (60 mg, 1.50 mmol). After stirring overnight at room temperature, the reaction mixture was concentrated under reduced pressure to afford a residue, which was dissolved in water (10 mL), adjusted pH to 6 with HCl (3N) and filtered to give 2-(1-benzofuran-2-yl)-3-[(propan-2-yl)amino]quinoxaline-6-carboxylic acid as a light yellow solid (30.1 mg, 52%).

reactant | methyl 2-(1-benzofuran-2-yl)-3-[(propan-2-yl)amino]quinoxaline-6-carboxylate | 0.17 mmol, 60 mg | O1C(=CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1N=C2NC(C)C)C(=O)OC | C21H19N3O3
reactant | sodium hydroxide | 1.50 mmol, 60 mg | [OH-].[Na+]
reactant | HCl | 3N | Cl | ClH
solvent | methanol | 30 mL | CO | CH4O
solvent | water | 10 mL | O | H2O
product | 2-(1-benzofuran-2-yl)-3-[(propan-2-yl)amino]quinoxaline-6-carboxylic acid | 30.1 mg, 52% | O1C(=CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1N=C2NC(C)C)C(=O)O | C20H17N3O3
